US03957666
Preparation of 3,3'-Bis(m-phenoxyphenoxy)biphenyl
A 500 ml. four-necked flask equipped with stirrer, thermometer, and Dean-Stark strap surmounted by a Friedrichs condenser, was charged with 93.5 g. (0.505 mole) of m-phenoxyphenol, and 30.8 g. (0.50 mole) of potassium hydroxide was added in increments with stirring at 100°C. After the initial exothermic reaction had subsided, 80 ml. of toluene was added and water azeotroped from the reaction mixture until the theoretical amount had been collected, including that from the potassium hydroxide. The toluene was distilled from the reaction mixture until the pot temperature reached 230°C. After cooling to 150°C., 100 ml. of diglyme was added together with 7 g. of cuprous chloride and 2 g. of copper powder. The reaction mixture was then heated with stirring to 170°C. and 129.3 g. (0.57 mole) of 3,3'-dichlorobiphenyl was added over a 1 hr. period. Diglyme was distilled from the reaction mixture until the pot temperature reached 235°C. when reaction was continuted for 18 hours. On cooling, the reaction mixture was diluted with an equal volume of ether, and filtered to remove copper and potassium salts. The ethereal solution was washed three times with 150 ml. portions of 20% potassium hydroxide followed by water washing until nuetral. The water and potassium hydroxide layers were extracted with additional ether, the ether solutions combined and dried over anhydrous magnesium sulfate. After filtration, the ether was removed under vacuum and a dark red-brown oil was distilled to yield 71.4 g. of the intermediate compound 3-chloro-3'-(m-phenoxyphenoxy)biphenyl, bp 220°-222°C/0.04 mm. and 17.2 g. of the desired product, bp 312°C./0.05 mm. Final purification of the desired product was effected by dissolving in ethyl ether, treating with 1.0 g. of activated charcoal, followed by filtration through filter aid and removal of ethyl ether under vacuum.

reactant | m-phenoxyphenol | 0.505 mole | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | potassium hydroxide | 0.50 mole | [OH-].[K+]
reactant | 3,3'-dichlorobiphenyl | 0.57 mole | ClC=1C=C(C=CC1)C1=CC(=CC=C1)Cl | C12H8Cl2
reactant | 3-chloro-3'-(m-phenoxyphenoxy)biphenyl | ClC=1C=C(C=CC1)C1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H17ClO2
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,3'-Bis(m-phenoxyphenoxy)biphenyl | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)C2=CC(=CC=C2)OC2=CC(=CC=C2)OC2=CC=CC=C2)C=CC1 | C36H26O4
